US07005443B1
Step A: 1-[5-Benzyloxy-3-(2-oxopropyl)indazol-1-yl]-ethanone
A mixture of (5-benzyloxy-1H-indazol-3-yl)-acetic acid (2 g, 7.08 mmol) and sodium acetate (0.99 g, 12 mmol) in acetic anhydride (6 ml) was stirred at 130° C. for 3 h. After cooling, water (15 ml) and ethyl acetate (15 ml) were added to the reaction mixture. The aqueous layer was separated and extracted with ethyl acetate (2×15 ml). The combined extracts were washed with saturated aqueous NaHCO3 (2×20 ml) and saturated aqueous NaCl (20 ml), dried (MgSO4), and evaporated to a residue which was purified by chromatography (silica, 15% ethyl acetate in hexane) to give a yellow solid (0.48 g): 1H NMR (CD3OD) δ 8.35–8.30 (m, 1H), 7.48–7.23 (m, 6H), 7.04–7.02 (m, 2H), 5.11 (s, 2H), 4.02 (s, 2H), 2.77 (s, 3H), 2.27 (s, 3H); 13C NMR (CDCl3)δ 203.64 (C), 170.47 (C), 156.20 (C), 145.04 (C), 136.52 (C), 128.64 (CH), 128.31 (CH), 127.60 (CH), 120.51 (CH), 116.74 (CH), 102.26 (CH), 70.68 (CH2), 42.76 (CH2), 29.59 (CH3), 22.77 (CH3), MS(APCl) m/z 323 (M+H)+.

reactant | (5-benzyloxy-1H-indazol-3-yl)-acetic acid | 7.08 mmol, 2 g | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)CC(=O)O | C16H14N2O3
reactant | sodium acetate | 12 mmol, 0.99 g | C(C)(=O)[O-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[5-Benzyloxy-3-(2-oxopropyl)indazol-1-yl]-ethanone | 0.48 g | C(C1=CC=CC=C1)OC=1C=C2C(=NN(C2=CC1)C(C)=O)CC(C)=O | C19H18N2O3
